US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (200 mg, 468 mol), 2,4-dimethylaniline (85.1 mg, 526 mol), BINAP (14.6 mg, 23.4 mol), palladium (II) acetate (26.3 mg, 117 mol) and sodium tert-butoxide (112 mg, 1.17 mmol) in DMF (1 mL) and toluene (500 μL) was heated in a microwave at 140° C. for 20 min. The reaction mixture was diluted with water then extracted into ethyl acetate (3×). The combined organic extracts were washed with brine then dried over magnesium sulfate. Purification by chromatography (silica, 20-60% ethyl acetate in hexanes) gave N-tert-butyl-2-(2,4-dimethylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (82 mg, 175 mol, 37.5%) as a brown gum. (EI/CI) m/z: 468.4 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 468 mol, 200 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 2,4-dimethylaniline | 526 mol, 85.1 mg | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | BINAP | 23.4 mol, 14.6 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium (II) acetate | 117 mol, 26.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | sodium tert-butoxide | 1.17 mmol, 112 mg | CC(C)([O-])C.[Na+]
product | N-tert-butyl-2-(2,4-dimethylphenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 175 mol, 82 mg, 37.5% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=C(C=C(C=C2)C)C)COCC[Si](C)(C)C | C25H37N5O2Si
